### PR TITLE
[Merged by Bors] - chore(Data): fix whitespace

### PR DESCRIPTION
**Pull request by harahu**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Slice.lean [hunk 1]
```diff
@@ -120,21 +120,21 @@ def slice (𝒜 : Finset (Finset α)) (r : ℕ) : Finset (Finset α) := {A ∈ 
 scoped[Finset] infixl:90 " # " => Finset.slice
 
 /-- `A` is in the `r`-th slice of `𝒜` iff it's in `𝒜` and has cardinality `r`. -/
-theorem mem_slice : A ∈ 𝒜 # r ↔ A ∈ 𝒜 ∧ #A = r :=
+theorem mem_slice : A ∈ 𝒜 #r ↔ A ∈ 𝒜 ∧ #A = r :=
```
Comment (grunweg) [inline Mathlib/Data/Finset/Slice.lean]: This is a linter false positive: please revert this change, throughout this file. This needs a pretty-printer or linter fix.

File: Mathlib/Data/Matrix/Cartan.lean [hunk 2]
```diff
@@ -49,46 +49,46 @@ open Matrix
 
 /-- The Cartan matrix of type E₆. See [bourbaki1968] plate V, page 277. -/
 def E₆ : Matrix (Fin 6) (Fin 6) ℤ :=
-  !![ 2,  0, -1,  0,  0,  0;
-      0,  2,  0, -1,  0,  0;
-     -1,  0,  2, -1,  0,  0;
-      0, -1, -1,  2, -1,  0;
-      0,  0,  0, -1,  2, -1;
-      0,  0,  0,  0, -1,  2]
+  !![2,  0, -1, 0, 0, 0;
```
Comment (grunweg) [inline Mathlib/Data/Matrix/Cartan.lean]: This code was manually aligned --- please revert this change. (Same for the other instances in this file.)

File: Mathlib/Data/Matrix/Mul.lean [hunk 3]
```diff
@@ -256,7 +256,7 @@ theorem exists_ne_zero_dotProduct_eq_zero (a : m → α) : ∃ b ≠ 0, b ⬝ᵥ
   obtain ⟨i, j, hij⟩ : ∃ i j : m, i ≠ j := nontrivial_iff.mp ‹_›
   classical
   use if a i = 0 then Pi.single i 1 else if a j = 0 then Pi.single j 1 else
-    fun k => if k = i then a j else if k = j then - a i else 0
+    fun k => if k = i then a j else if k = j then -a i else 0
```
Comment (grunweg) [inline Mathlib/Data/Matrix/Mul.lean]: Can you revert this one, please?

File: Mathlib/Data/QPF/Multivariate/Basic.lean [hunk 4]
```diff
@@ -174,7 +174,7 @@ theorem has_good_supp_iff {α : TypeVec n} (x : F α) :
       ∃ a f, abs ⟨a, f⟩ = x ∧ ∀ i a' f', abs ⟨a', f'⟩ = x → f i '' univ ⊆ f' i '' univ := by
   constructor
   · intro h
-    have : LiftP (supp x) x := by rw [h]; introv; exact id
+    have : LiftP (supp x) x := by rw [h]; introv ; exact id
```
Comment (grunweg) [inline Mathlib/Data/QPF/Multivariate/Basic.lean]: This seems odd; please revert or explain.

**Review by grunweg — COMMENTED** [review]
Some comments on perhaps half the PR.

File: Mathlib/Data/Finset/Slice.lean (hunk 1 above)
Comment (harahu) [reply Mathlib/Data/Finset/Slice.lean]: Reverted

File: Mathlib/Data/Matrix/Cartan.lean (hunk 2 above)
Comment (harahu) [reply Mathlib/Data/Matrix/Cartan.lean]: Reverted

File: Mathlib/Data/Matrix/Mul.lean (hunk 3 above)
Comment (harahu) [reply Mathlib/Data/Matrix/Mul.lean]: Done

File: Mathlib/Data/QPF/Multivariate/Basic.lean (hunk 4 above)
Comment (harahu) [reply Mathlib/Data/QPF/Multivariate/Basic.lean]: No reason to keep this in -- just a result of auto-applying fix suggestions.

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
